US09023865B2
A solution of 6-chloro-3-iodo-1H-pyrazolo[4,3-c]pyridine (1.874 g, 6.71 mmol) in THF (20 mL) was treated with NaH (60% in mineral oil; 0.402 g, 10.06 mmol) at 0° C. and the mixture was stirred for 50 min. Trityl chloride (2.244 g, 8.05 mmol) was added at the same temperature and the mixture was stirred for 16 h at room temperature, quenched with saturated NH4Cl and extracted with EtOAc. The organic phase was washed with water, brine, dried (Na2SO4) and concentrated in vacuo to afford a residue, which was purified by chromatography on silica gel (SNAP 50 g, from 0 to 10% EtOAc in hexanes, 5 CV; 10% EtOAc in hexanes, 15 CV) to yield 6-chloro-3-iodo-1-trityl-1H-pyrazolo[4,3-c]pyridine (3.26 g, 6.25 mmol, 93%) as a light yellow solid. MS ESI calc'd. for C25H18ClIN3[M+1]+522, found 522.

reactant | 6-chloro-3-iodo-1H-pyrazolo[4,3-c]pyridine | 6.71 mmol, 1.874 g | ClC1=CC2=C(C=N1)C(=NN2)I | C6H3ClIN3
reactant | NaH | 10.06 mmol, 0.402 g | [H-].[Na+]
reactant | Trityl chloride | 8.05 mmol, 2.244 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-chloro-3-iodo-1-trityl-1H-pyrazolo[4,3-c]pyridine | 6.25 mmol, 3.26 g, 93% | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)I | C25H17ClIN3
